US07476764B2
Step 2: Preparation of 3-acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester.
A mixture of 3-bromo-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester (500 mg, 1.44 mmol), 1-(vinyloxy)butane (288.6 mg, 0.37 mL, 2.88 mmol), palladium acetate (9.6 mg, 0.043 mmol), DPPP (39.2 mg, 0.095 mmol) and potassium carbonate (238.5 mg, 1.73 mmol) in DMF (3.8 mL) and H2O (0.45 mL) in a Smith process vial was heated at 122° C. in microwave for 3 h. The reaction mixture was cooled down to room temperature and hydrolyzed by addition of 5% HCl (6 mL) slowly. The reaction mixture was worked up by extraction with ethyl acetate and concentration under vacuum. The crude mixture was purified by reverse phase prep HPLC to give the title compound (200 mg): 1H NMR (CD3OD, 500 MHz) δ ppm 1.93-2.01 (2H, m), 2.31-2.37 (2H, m), 2.67 (3H, s), 3.27-3.30 (2H, m), 3.83 (2H, t, J=5 Hz), 3.98 (3H, s), 8.14 (1H, m), 8.19 (1H, m), 8.51 (1H, m). HPLC retention time: 1.448 min (method A). MS (ESI) (M+H)+ 312.13.

reactant | 3-bromo-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester | 1.44 mmol, 500 mg | COC(C1=CC(=CC(=C1)N1S(CCCC1)(=O)=O)Br)=O | C12H14BrNO4S
reactant | 1-(vinyloxy)butane | 2.88 mmol, 0.37 mL, 288.6 mg | C(=C)OCCCC | C6H12O
reactant | DPPP | 0.095 mmol, 39.2 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | potassium carbonate | 1.73 mmol, 238.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 6 mL | Cl | ClH
solvent | DMF | 3.8 mL | CN(C)C=O | C3H7NO
solvent | H2O | 0.45 mL | O | H2O
catalyst | palladium acetate | 0.043 mmol, 9.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-acetyl-5-(1,1-dioxo-1λ6-[1,2]thiazinan-2-yl)-benzoic acid methyl ester | 200 mg | COC(C1=CC(=CC(=C1)N1S(CCCC1)(=O)=O)C(C)=O)=O | C14H17NO5S
